US06706751B2
850 mg (2.7 mmol) 6-(5-Hydroxy-pent-1-ynyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester in 30 ml ethanol were hydrogenated in the presence of 10% Pd/C over night. Purification by column chromatography yielded 450 mg (68%) 6-(5-Hydroxy-pentyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester as yellow oil, MS: 319 (M).

reactant | 6-(5-Hydroxy-pent-1-ynyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 2.7 mmol, 850 mg | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)C#CCCCO | C19H25NO3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | 6-(5-Hydroxy-pentyl)-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 450 mg, 68% | C(C)(C)(C)OC(=O)N1CCCC2=CC(=CC=C12)CCCCCO | C19H29NO3
